US07932271B2
At 0° C., 4-chlorobenzenethiol (5.45 g, 38.2 mmol), triphenylphosphine (11.1 g, 41.6 mmol) and diisopropyl azodicarboxylate (8.16 ml, 41.6 mmol) were sequentially added to a tetrahydrofuran (150 ml) solution of 2,5-difluorobenzyl alcohol (5.00 g, 34.7 mmol). The reaction mixture was stirred at room temperature for 4 days, followed by concentration. The residue thus obtained was purified by silica gel column chromatography (1% ethyl acetate-hexane) to give 2-[(4-chlorophenyl)thiomethyl]-1,4-difluorobenzene (2.68 g, 29%) as a colorless oil.

reactant | 4-chlorobenzenethiol | 38.2 mmol, 5.45 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | triphenylphosphine | 41.6 mmol, 11.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 41.6 mmol, 8.16 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 2,5-difluorobenzyl alcohol | 34.7 mmol, 5.00 g | FC1=C(CO)C=C(C=C1)F | C7H6F2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-[(4-chlorophenyl)thiomethyl]-1,4-difluorobenzene | 2.68 g, 29% | ClC1=CC=C(C=C1)SCC1=C(C=CC(=C1)F)F | C13H9ClF2S
